US09169249B2
This reaction with TMS-N3 was performed behind a blast shield. The crude 4-fluoro-1-isocyanato-2-isopropoxybenzene was placed under argon and trimethylsilylazide (16 mL, 118.2 mmol, 2 equiv) was added. The reaction mixture was heated to refluxed for ON under argon. After cooling to RT, the reaction mixture was concentrated under vacuum, and the residue was charged with saturated NaHCO3 (100 mL) and stirred vigorously for 5-10 min, then the basic reaction mixture was diluted with EtOAc. The layers were separated, and the organic layer was monitored by TLC to confirm that all the product had been extracted by the saturated NaHCO3 solution. EtOAc was added to the combined basic aqueous extracts, and the pH was adjusted to <3 using 6N HCl. The aqueous and organic layers were partitioned, and the aqueous layer was extracted with EtOAc 3×. The combined organic layers were dried over Na2SO4, filtered, and the solvent removed under vacuum to provide 1-(4-fluoro-2-isopropoxyphenyl)-1H-tetrazol-5(4H)-one (11.4 g, 81%) as a brown oil that was used without further purification.

reactant | TMS-N3 | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | 4-fluoro-1-isocyanato-2-isopropoxybenzene | FC1=CC(=C(C=C1)N=C=O)OC(C)C | C10H10FNO2
reactant | trimethylsilylazide | 118.2 mmol, 16 mL, 2 equiv | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-fluoro-2-isopropoxyphenyl)-1H-tetrazol-5(4H)-one | 11.4 g, 81% | FC1=CC(=C(C=C1)N1N=NNC1=O)OC(C)C | C10H11FN4O2
